US08293903B2
Step 2. Benzyl (1R,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-(1-hydroxycyclobutyl)cyclopent-2-ene-1-carboxylate
To a cold (−78 C), stirred solution of 6.17 g (20.9 mmol) of benzyl (4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylate (Preparation SRT-0233) in 40 mL of dry THF, under Ar, was slowly added 23.3 mL of a commercial 1.8 M solution of LDA. The resulting solution was warmed to 0 C, stirreed at that temperature for 10 min, and then recooled to −78 C for the addition of 2.3 mL (31 mmol) of cyclobutanone. This solution was stirred at −78 C for 1 h, then quenched at −78 C by the slow addition of a solution of 4.0 mL of 12N HCl in 10 mL of THF. Ethyl acetate and excess 1 M citric acid were added and the mixture was allowed to warm to RT. Extractive workup was followed by flash chromatography on silica using 25% ethyl acetate in heptane to provide 5.55 g (73%) of the title compound as a thick amber oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.44-1.56 (m, 1H) 1.88-2.31 (m, 6H) 2.12 (s, 6H) 2.27 (dd, J=14.7, 7.5 Hz, 1H) 2.76 (dd, J=14.5, 9.0 Hz, 1H) 5.18 (s, 2H) 5.26-5.32 (m, 1H) 5.71 (s, 2H) 6.06 (dd, 1H) 6.10 (dd, 1H) 7.30-7.39 (m, 5H). TLC Rf 0.36 (30% ethyl acetate in hexane). LC-MS ES+ 366.2.

reactant | benzyl (4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylate | 20.9 mmol, 6.17 g | CC=1N(C(=CC1)C)[C@@H]1C=CC(C1)C(=O)OCC1=CC=CC=C1 | C19H21NO2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | cyclobutanone | 31 mmol, 2.3 mL | C1(CCC1)=O | C4H6O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Benzyl (1R,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-(1-hydroxycyclobutyl)cyclopent-2-ene-1-carboxylate | 5.55 g, 73% | CC=1N(C(=CC1)C)[C@@H]1C=C[C@@](C1)(C(=O)OCC1=CC=CC=C1)C1(CCC1)O | C23H27NO3
